US07651687B2
Benzyl {[trans-4-(8-chloroimidazo[1,5-a]pyrazin-3-yl)cyclohexyl]methyl}carbamate
To a suspension of benzyl [(trans-4-{[(3-chloropyrazin-2-yl)methyl]carbamoyl}cyclohexyl)methyl]carbamate (0.100 g, 0.220 mmol) in EtOAc (0.9 mL) and DMF (0.068 mL) at 0° C. was added slowly POCl3 (0.082 mL, 0.88 mmol). After stirring at rt for an hour, the mixture was cooled to 0° C. and solid NaHCO3 was added. After a further 10 min at 0° C. and 20 min at rt, the mixture was re-cooled to 0° C. and water (20 mL) was added. The reaction mixture was extracted with EtOAc (3×20 mL) and the extracts washed with water (2×30 mL) and brine (30 mL) and then dried over Na2SO4 and concentrated in vacuo to afford 0.096 g of the title compound. 1H NMR (400 MHz, CDCl3): δ 1.15-1.19 (m, 2H), 1.76-1.87 (m, 3H), 1.93-2.00 (m, 2H), 2.04-2.08 (m, 2H), 3.07 (m, 1H), 3.15 (t, J=6.4 Hz, 2H), 4.84 (br, 1H), 5.09 (s, 2H), 7.31-7.40 (m, 6H), 7.61 (d, J=4.8 Hz, 1H), 7.79 (s, 1H). MS (ES+): m/z 399.26 [MH+].

reactant | benzyl [(trans-4-{[(3-chloropyrazin-2-yl)methyl]carbamoyl}cyclohexyl)methyl]carbamate | 0.220 mmol, 0.100 g | ClC=1C(=NC=CN1)CNC(=O)[C@@H]1CC[C@H](CC1)CNC(OCC1=CC=CC=C1)=O | C21H25ClN4O3
reactant | POCl3 | 0.88 mmol, 0.082 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | water | 20 mL | O | H2O
solvent | EtOAc | 0.9 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 0.068 mL | CN(C)C=O | C3H7NO
product | Benzyl {[trans-4-(8-chloroimidazo[1,5-a]pyrazin-3-yl)cyclohexyl]methyl}carbamate | 0.096 g | ClC=1C=2N(C=CN1)C(=NC2)[C@@H]2CC[C@H](CC2)CNC(OCC2=CC=CC=C2)=O | C21H23ClN4O2
